US07632829B2
3-(4-Methoxy-benzyloxy)-2-methoxymethyl-6-methyl-pyridine
1.55 g (6.00 mmol) of [3-(4-Methoxy-benzyloxy)-6-methyl-pyridin-2-yl]-methanol in cold 10 ml THF (0° C.) was treated 30 min with 0.41 g (10.30 mmol) of NaH (55% in oil), then 0.43 ml (6.90 mmol) of iodomethane was added and the yellow suspension stirred 1 h. An extraction (water/CH2Cl2) and a chromatography (silica gel, AcOEt/n-n-heptane) delivered 1.41 g (86%) of the title compound as a yellow oil. MS: 274.3 (MH+).

reactant | [3-(4-Methoxy-benzyloxy)-6-methyl-pyridin-2-yl]-methanol | 6.00 mmol, 1.55 g | COC1=CC=C(COC=2C(=NC(=CC2)C)CO)C=C1 | C15H17NO3
reactant | NaH | 10.30 mmol, 0.41 g | [H-].[Na+]
reactant | iodomethane | 6.90 mmol, 0.43 ml | IC | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(4-Methoxy-benzyloxy)-2-methoxymethyl-6-methyl-pyridine | COC1=CC=C(COC=2C(=NC(=CC2)C)COC)C=C1 | C16H19NO3
